US08912329B2
To a 2 M lithium diisopropylamine solution in tetrahydrofuran of −78° C. is added 1-phenylethyl-2-pyrrolidone and the mixture is stirred for 1.5 h at −78° C. Then 1-propyl bromide is added and the reaction is stirred for another 1.5 h at −78° C. The reaction mixture is allowed to warm up to 0° C. before ice-cold water with acetic acid is added and subsequently extracted 3 times with dichloromethane. The dichloromethane is concentrated in vacuo and the residue is dissolved in dichloromethane, washed with saturated NaHCO3 and brine. Crude 1-phenethyl-3-propylpyrrolidin-2-one is obtained after removal of the solvents in vacuo. The product is purified by column chromatography.

reactant | lithium diisopropylamine | 2 M | C(C)(C)NC(C)C.[Li]
reactant | 1-phenylethyl-2-pyrrolidone | C1(=CC=CC=C1)C(C)N1C(CCC1)=O | C12H15NO
reactant | 1-propyl bromide | C(CC)Br | C3H7Br
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-phenethyl-3-propylpyrrolidin-2-one | C(CC1=CC=CC=C1)N1C(C(CC1)CCC)=O | C15H21NO
